US08486946B2
Step 2. Preparation of ethyl 2-diazo-3-(2,6-difluorophenyl)-3-oxopropanoate
Ethyl 3-(2,6-difluorophenyl)-3-oxopropanoate (12.3 g, 53.8 mmol) and triethylamine (22.5 mL, 0.161 mol, 3.0 equiv) were dissolved in acetonitrile (160 mL) and treated with 4-acetamidobenzenesulfonyl azide. The mixture was stirred for 18 hours at ambient temperature, concentrated in vacuo and the residue was purified by silica gel chromatography (eluting with chloroform), providing the titled compound.

reactant | Ethyl 3-(2,6-difluorophenyl)-3-oxopropanoate | 53.8 mmol, 12.3 g | FC1=C(C(=CC=C1)F)C(CC(=O)OCC)=O | C11H10F2O3
reactant | triethylamine | 0.161 mol, 22.5 mL, 3.0 equiv | C(C)N(CC)CC | C6H15N
reactant | 4-acetamidobenzenesulfonyl azide | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-] | C8H8N4O3S
solvent | acetonitrile | 160 mL | C(C)#N | C2H3N
product | ethyl 2-diazo-3-(2,6-difluorophenyl)-3-oxopropanoate | [N+](=[N-])=C(C(=O)OCC)C(=O)C1=C(C=CC=C1F)F | C11H8F2N2O3
